US07696223B2
a) 3-Cyano-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 3-bromo-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (200 mg), Zn(CN)2 (31 mg), Zn dust (3.5 mg), Pd2(dba)3 (20 mg), dppf (24.4 mg) in DMA (1 mL) was heated to 120° C. for 145 min; then the mixture was partitioned between EtOAc and water, the organic phase was then washed with sat. NaCl solution, dried over anhydrous sodium sulfate, filtered and concentrated sequentially to give a residue, which was purified with column to give desired title compound (83 mg). The title compound, ESI MS (m/z): 402 (M+H)+.

reactant | 3-bromo-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C22H16BrFN2O3
reactant | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
catalyst | Zn(CN)2 | 31 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn | 3.5 mg | [Zn] | Zn
catalyst | Pd2(dba)3 | 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 24.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 3-Cyano-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 83 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2C#N)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C23H16FN3O3
